* LVDS Output Driver — 180nm CMOS
* H-bridge current-steering topology
*
* Architecture:
*   - PMOS/NMOS current mirrors (20:1 ratio, 175uA ref -> 3.5mA output)
*   - 4-transistor H-bridge steers current through differential load
*   - Series enable transistors for tri-state control
*   - On-chip inverters for complementary signal generation
*
* LVDS spec targets:
*   - Differential swing: 350mV across 100 Ohm termination
*   - Common-mode voltage: ~1.2V (no CMFB in this version)
*   - Nominal current: 3.5mA

.subckt lvds_driver outp outn vdd vss din en iref=175u lmin=180n

* ================================================================
* Complementary signal generation
* ================================================================

* Data inverter: din -> din_b
Mp_dinv din_b din vdd vdd pmos w=2u l={lmin}
Mn_dinv din_b din vss vss nmos w=1u l={lmin}

* Enable inverter: en -> en_b
Mp_einv en_b en vdd vdd pmos w=2u l={lmin}
Mn_einv en_b en vss vss nmos w=1u l={lmin}

* ================================================================
* Bias generation (ideal current source + diode-connected mirror)
* ================================================================

* PMOS reference: 175uA into diode-connected PMOS sets Vgs
I_pref vdd pbias DC {iref}
Mp_bref pbias pbias vdd vdd pmos w=3u l={lmin}

* NMOS reference: 175uA through diode-connected NMOS sets Vgs
I_nref nbias vss DC {iref}
Mn_bref nbias nbias vss vss nmos w=1.5u l={lmin}

* ================================================================
* Current source and sink (20:1 mirror ratio -> 3.5mA)
* ================================================================

* PMOS current source
Mp_cs cs_p pbias vdd vdd pmos w=60u l={lmin}

* Series PMOS enable: conducts when en=HIGH (en_b=LOW)
Mp_en tail_p en_b cs_p vdd pmos w=60u l={lmin}

* NMOS current sink
Mn_cs cs_n nbias vss vss nmos w=30u l={lmin}

* Series NMOS enable: conducts when en=HIGH
Mn_en tail_n en cs_n vss nmos w=30u l={lmin}

* ================================================================
* H-bridge output steering switches
* ================================================================
*
* din=HIGH (din_b=LOW):
*   Mp_a ON, Mn_b ON
*   current path: tail_p -> outp -> [load] -> outn -> tail_n
*
* din=LOW (din_b=HIGH):
*   Mp_b ON, Mn_a ON
*   current path: tail_p -> outn -> [load] -> outp -> tail_n

Mp_a outp din_b tail_p vdd pmos w=24u l={lmin}
Mp_b outn din tail_p vdd pmos w=24u l={lmin}
Mn_a outp din_b tail_n vss nmos w=12u l={lmin}
Mn_b outn din tail_n vss nmos w=12u l={lmin}

.ends lvds_driver
